US08871774B2
Formation of 3-bromo-5-fluoro-1-trityl-1H-pyrazolo[3,4-b]pyridine (5)
A mixture of 3-bromo-5-fluoro-1H-pyrazolo[3,4-b]pyridine, 4, (0.97 g, 4.49 mmol) and K2CO3 (1.86 g, 13.47 mmol) in DMF (9.7 mL) was cooled to 0° C. Chlorodiphenylmethylbenzene (1.38 g, 4.94 mmol) was added. The mixture was stirred at room temperature overnight. The mixture was diluted with 40 mL of ethyl acetate and washed with 30 mL of water. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The product was purified by silica gel chromatography (40% ethyl acetate/hexanes) to afford 1.68 g of the desired product as a white solid: 1H NMR (300 MHz, d6-DMSO) δ 8.45-8.38 (m, 1H), 8.04 (dd, J=8.0, 2.7 Hz, 1H), 7.35-7.16 (m, 15H); LC/MS Gradient 10-90%, 0.1% formic 5 min, C18/ACN, Retention Time=3.03 min, (M+H) 459.46.

reactant | 3-bromo-5-fluoro-1H-pyrazolo[3,4-b]pyridine | BrC1=NNC2=NC=C(C=C21)F | C6H3BrFN3
reactant | K2CO3 | 13.47 mmol, 1.86 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Chlorodiphenylmethylbenzene | 4.94 mmol, 1.38 g | ClC1=C(C=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
solvent | DMF | 9.7 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 3-bromo-5-fluoro-1-trityl-1H-pyrazolo[3,4-b]pyridine | 1.68 g | BrC1=NN(C2=NC=C(C=C21)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H17BrFN3
